US09233983B2
Step-I: Ethyl 2-amino-5-(4-methoxycarbonylphenyl)-1H-pyrrole-3-carboxylate (XI-7-I)
Na metal (1.96 g, 85.3 mmol) was added portion wise to ethanol (210 mL) and stirred for 30 minutes to get clear solution. To this was added ethyl 3-amino-3-imino-propanoate hydrochloride (CAS: 57508-48-2, 14.25 g, 85.6 mmol) and stirred at room temperature for additional 30 minutes. Finally, methyl 4-(2-bromoacetyl)benzoate (11 g, 42.8 mmol) was added to the reaction mixture and stirred for 16-20 h at room temperature. After completion of the reaction (as indicated by TLC and LCMS), reaction mixture was filtered through celite and the residue was washed with MeOH (50 mL×2). The combined filtrate was concentrated under reduced pressure and the residue was purified using silica gel column chromatography (40% EtOAc in hexane) to provide XI-7-I (7 g, 56.7% yield). LCMS; m/z: 289.1 (M+1)+.

reactant | ethyl 3-amino-3-imino-propanoate hydrochloride | 85.6 mmol, 14.25 g | Cl.NC(CC(=O)OCC)=N
reactant | methyl 4-(2-bromoacetyl)benzoate | 42.8 mmol, 11 g | BrCC(=O)C1=CC=C(C(=O)OC)C=C1 | C10H9BrO3
solvent | ethanol | 210 mL | C(C)O | C2H6O
product | Ethyl 2-amino-5-(4-methoxycarbonylphenyl)-1H-pyrrole-3-carboxylate | 56.7% yield | NC=1NC(=CC1C(=O)OCC)C1=CC=C(C=C1)C(=O)OC | C15H16N2O4
